US05106863
5-Trifluoromethyl-2-[(3,7-dimethyl-2,6(E)-octadienyl)thio]-1H-1,3-benzimidazole
To a solution of 5-trifluoromethyl-2-mercaptobenzimidazole (1.09 g, 5 mmol) (Senn-Bilfingen, J., DE 3240298(1983)) in methanol (10 mL) was added 2N aqueous sodium hydroxide (6 mmol) and geranyl chloride (0.86 g, 5 mmol). The resultant solution was stirred for 48 hours at ambient temperature, evaporated in vacuo, dissolved in methylene chloride, washed with saturated sodium chloride, and dried over sodium sulfate. Evaporation of the solvent gave an oil which was flash chromatographed (5% MeOH (CH2Cl2) in Merck Kieselgel) and treated with charcoal. Evaporation of the solvent gave an off-white solid of the title compound (550 mg). m.p. 106°-108° C. NMR (CDCl3)δ7.83(m,1H), 7.57(m,2H), 5.43(d, J=7 Hz,1H), 5.2(m,1H), 4.03(d,J=7Hz,2H), 2.0(m,4H), 1.70(s,3H), 1.67(s,3H), 1.65(s,3H).

reactant | 5-trifluoromethyl-2-mercaptobenzimidazole | 5 mmol, 1.09 g | FC(C1=CC2=C(N=C(N2)S)C=C1)(F)F | C8H5F3N2S
reactant | sodium hydroxide | 6 mmol, 2N | [OH-].[Na+]
reactant | geranyl chloride | 5 mmol, 0.86 g | C(\C=C(/C)\CCC=C(C)C)Cl | C10H17Cl
solvent | methanol | 10 mL | CO | CH4O
product | 5-Trifluoromethyl-2-[(3,7-dimethyl-2,6(E)-octadienyl)thio]-1H-1,3-benzimidazole | 550 mg | FC(C1=CC2=C(NC(=N2)SC\C=C(\CCC=C(C)C)/C)C=C1)(F)F | C18H21F3N2S
